US06054470
A mixture of 1-hexyl-4-methyl-3-nitro-5-methoxycarbonyl-2-pyridone (0.145 g, 0.49 mmol) and a catalytic amount of 10% Pd/C in ethyl acetate (100 mL) was hydrogenated at 45 psi in a Parr apparatus for 5 hours. The catalyst was removed by filtration and the solvent was evaporated to give 3-amino-1-hexyl-4-methyl-5-methoxycarbonyl-2-pyridone (0.133 g, 100%).

reactant | 1-hexyl-4-methyl-3-nitro-5-methoxycarbonyl-2-pyridone | 0.49 mmol, 0.145 g | C(CCCCC)N1C(C(=C(C(=C1)C(=O)OC)C)[N+](=O)[O-])=O | C14H20N2O5
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 3-amino-1-hexyl-4-methyl-5-methoxycarbonyl-2-pyridone | 0.133 g, 100% | NC=1C(N(C=C(C1C)C(=O)OC)CCCCCC)=O | C14H22N2O3
